2182-01-05 10:09:00 Physician Attending Progress Note
Chief Complaint: Alcohol withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On CIWA scale overnight. Received two doses of valium. When patient
   sleeping, vital signs normal. Tends to be tachycardic when awakened.
   Patient is refusing IV's, blood draws intermittently.
   Persistent knee pain.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   MVI, heparin sc, valium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-5**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 102 (80 - 132) bpm
   BP: 142/95(108) {111/65(77) - 142/106(119)} mmHg
   RR: 11 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    800 mL
   Urine:
   800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: Rare)
   Abdominal: Soft, Bowel sounds present, No(t) Distended, No(t) Obese,
   Voluntary guarding throughout
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed, Mildly tremulous
   Labs / Radiology
   313
   0.7
   29
   4.2
   12
   104
   143
   36.3
   5.8
        [image002.jpg]
   Other labs: Amylase / Lipase:/134
   Assessment and Plan
 ALCOHOL ABUSE
   ALCOHOL WITHDRAWAL
   Assessment difficult because of patient's history of manipulating the
   system, but he appears to be genuinely tremulous and tachycardic now.
   Would give additional benzodiazepines and fluids. Would check
   magnesium; patient has come in hypomagnesemic in the past.
   Oxygenation excellent. Continue to monitor.
   ICU Care
   Nutrition: oral
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-1-4**] 11:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2182-01-06 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient without IV access (IV team tried 4 times), but taking good
   POs.  Can use foot veins for emergencies.
   - Continues to get PO Valium for withdrawal
   - Knee film without fracture.
   - Repleting lytes and giving PO vitamins
   - recieved 120mg of PO valium yesterday
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-6**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 87 (70 - 120) bpm
   BP: 128/81(95) {107/65(64) - 145/95(110)} mmHg
   RR: 18 (9 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,410 mL
                                                                    120 mL
   PO:
                                                                  1,410 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,925 mL
                                                                  1,200 mL
   Urine:
                                                                  3,925 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,515 mL
                                                                 -1,080 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   GEN: Disheveled male, tremulous, anxious
   COR: tachy, regular, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, diffusely tender to palpation, ND, +BS, no HSM, no masses
   EXT: No C/C/E, no palpable cords
   Neuro:  EOM with mild lateral nystagmus, PERRL, deferred rest of exam
   Labs / Radiology
   286 K/uL
   13.0 g/dL
   82 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   8 mg/dL
   103 mEq/L
   137 mEq/L
   39.2 %
   6.6 K/uL
        [image002.jpg]
                            [**2182-1-5**]  10:10 AM
                            [**2182-1-6**]  04:39 AM
   WBC
   5.3
   6.6
   Hct
   34.3
   39.2
   Plt
   233
   286
   Cr
   0.7
   0.7
   Glucose
   85
   82
   Other labs: PT / PTT / INR:12.7/30.2/1.1, ALT / AST:49/62, Alk Phos / T
   Bili:103/0.9, Amylase / Lipase:/100, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
   Assesment: This is a 37 year-old male with a history of alcoholism with
   multiple admissions for detox and history of DTs/withdrawal seizures
   who presents with intoxication followed by withdrawal.
   .
   Plan:
   # ETOH intoxication: Multiple previous admissons for similar detox
   requests. Received 120mg of valium overnight for anxiety,
   tremulousness, and tachycardia.
   - Increase CIWA to q2hr.
   - valium 10mg PO q2h prn CIWA > 10
   - will load w/ benzodiazepines until signs of mild intoxication given
   his high risk for w/d seizures
   - Thiamine, folate, multivitamin
   - social work consult working on detox for him to go to
   - telemetry monitoring
   .
   # L knee pain: Pt likely sustained a fall while intoxicated but does
   not recall. Knee is painful with point tenderness over the patella and
   medial aspect of joint line with swelling.  X-ray r/o fracture.
   - can give tylenol for pain, no more than 2g per day
   .
   # HCV: previous history of relatively severe transaminitis and w/
   current diffuse abdominal pain. AST and ALT are not far from his recent
   baseline.
   - monitor LFTs
   .
   # Elevated lipase: Has chronically elevated lipase, likely chronic
   pancreatitis [**3-10**] EtOH use.
   - cont to monitor lipase
   .
   # Depression/Anxiety: Valium as above. Currently no SI/HI but has had
   both in the past.
   - social work consult
   .
   # FEN: encourage PO fluids, replete lytes prn
   .
   # PPx: telemetry, heparin sq
   .
   # Access: No current IV access
   - Defer PICC for now as he has pulled them in the past to leave AMA
   - attempt by IV team to obtain PIV access without success
   - can use foot vein in emergency
   .
   # Code: Full code
   .
   # Dispo: ICU care
   .
   # Comm: with patient
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-01-06 10:54:00 Physician Attending Progress Note
Chief Complaint: Alcohol withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient maintaining oral fluid intake appropriately. Received 120 mg of
   valium through the day yesterday; 2 doses since midnight.
   Afebrile. Blood pressure has been stable.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-1-6**] 08:49 AM
   Heparin Sodium (Prophylaxis) - [**2182-1-6**] 08:49 AM
   Other medications:
   Folic acid, MVI, thiamine, valium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-6**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 72 (70 - 120) bpm
   BP: 128/81(95) {107/65(64) - 145/87(110)} mmHg
   RR: 13 (9 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,410 mL
                                                                    120 mL
   PO:
                                                                  1,410 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,925 mL
                                                                  1,200 mL
   Urine:
                                                                  3,925 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,515 mL
                                                                 -1,080 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Oral mucosa moist
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ,
   No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds: Clear :
   bilaterally, No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Voluntary guarding, No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed, Patient was
   sleeping comfortably with HR 69 when we entered the room.
   Labs / Radiology
   13.0 g/dL
   286 K/uL
   82 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   8 mg/dL
   103 mEq/L
   137 mEq/L
   39.2 %
   6.6 K/uL
        [image002.jpg]
                            [**2182-1-5**]  10:10 AM
                            [**2182-1-6**]  04:39 AM
   WBC
   5.3
   6.6
   Hct
   34.3
   39.2
   Plt
   233
   286
   Cr
   0.7
   0.7
   Glucose
   85
   82
   Other labs: PT / PTT / INR:12.7/30.2/1.1, ALT / AST:49/62, Alk Phos / T
   Bili:103/0.9, Amylase / Lipase:/100, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
   ALCOHOL WITHDRAWAL
   Patient improving in that tachycardia and tremor are less pronounced.
   Good O2 sats without supplemental oxygen. Valium to continue per CIWA.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines: None
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not indicated
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2182-01-07 07:49:00 Physician Resident Progress Note
Chief Complaint: EtOH withdrawal
   24 Hour Events:  q2-4 valium yesterday; none between midnight and 8AM
   needed.  Social work notified, planning for d/c to dual diagnosis
   program when stable.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-1-6**] 11:15 PM
   Heparin Sodium (Prophylaxis) - [**2182-1-6**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-7**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 77 (69 - 135) bpm
   BP: 122/82(87) {115/72(81) - 152/91(104)} mmHg
   RR: 13 (8 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    820 mL
                  PO:
                                                                    820 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                      0 mL
   Urine:
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -830 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   Patient deferring exam. GEN: wrapped in blankets, appears wide-eyed,
   scared. Denies hallucinations.
   Labs / Radiology
   286 K/uL
   13.0 g/dL
   82 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   8 mg/dL
   103 mEq/L
   137 mEq/L
   39.2 %
   6.6 K/uL
        [image002.jpg]
                            [**2182-1-5**]  10:10 AM
                            [**2182-1-6**]  04:39 AM
   WBC
   5.3
   6.6
   Hct
   34.3
   39.2
   Plt
   233
   286
   Cr
   0.7
   0.7
   Glucose
   85
   82
   Other labs: PT / PTT / INR:12.7/30.2/1.1, ALT / AST:49/62, Alk Phos / T
   Bili:103/0.9, Amylase / Lipase:/100, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
   Assesment: This is a 37 year-old male with a history of alcoholism with
   multiple admissions for detox and history of DTs/withdrawal seizures
   who presents with intoxication followed by withdrawal.
   .
   Plan:
   # ETOH intoxication: Multiple previous admissons for similar detox
   requests. Improving tremulousness. No hallucinations, tactile
   variations.
   - Increase CIWA to q4hr.
   - valium 10mg PO q4h prn CIWA > 10
   - will load w/ benzodiazepines until signs of mild intoxication given
   his high risk for w/d seizures
   - Thiamine, folate, multivitamin
   - social work consult working on detox for him to go to rehab
   - telemetry monitoring
   .
   # L knee pain: Pt likely sustained a fall while intoxicated but does
   not recall. Knee is painful with point tenderness over the patella and
   medial aspect of joint line with swelling.  X-ray r/o fracture.
   - can give tylenol for pain, no more than 2g per day
   .
   # HCV: previous history of relatively severe transaminitis and w/
   current diffuse abdominal pain. AST and ALT are not far from his recent
   baseline.
   - monitor LFTs
   .
   # Elevated lipase: Has chronically elevated lipase, likely chronic
   pancreatitis [**3-10**] EtOH use.
   - cont to monitor lipase
   .
   # Depression/Anxiety: Valium as above. Currently no SI/HI but has had
   both in the past.
   - social work consult
   .
   # FEN: encourage PO fluids, replete lytes prn
   .
   # PPx: telemetry, heparin sq
   .
   # Access: No current IV access
   - Defer PICC for now as he has pulled them in the past to leave AMA
   - attempt by IV team to obtain PIV access without success
   - can use foot vein in emergency
   .
   # Code: Full code
   .
   # Dispo: ICU care
   .
   # Comm: with patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2182-01-07 12:29:00 Physician Attending Progress Note
Chief Complaint: Alcohol Withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-1-7**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2182-1-7**] 08:22 AM
   Other medications:
   Med List reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-7**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 66 (66 - 135) bpm
   BP: 100/55(65) {97/55(65) - 152/91(101)} mmHg
   RR: 12 (8 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    820 mL
                  PO:
                                                                    820 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                      0 mL
   Urine:
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -830 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.7 g/dL
   262 K/uL
   80 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   14 mg/dL
   102 mEq/L
   135 mEq/L
   37.1 %
   5.5 K/uL
        [image002.jpg]
                            [**2182-1-5**]  10:10 AM
                            [**2182-1-6**]  04:39 AM
                             [**2182-1-7**]  07:43 AM
   WBC
   5.3
   6.6
   5.5
   Hct
   34.3
   39.2
   37.1
   Plt
   233
   286
   262
   Cr
   0.7
   0.7
   0.8
   Glucose
   85
   82
   80
   Other labs: PT / PTT / INR:12.7/30.2/1.1, ALT / AST:41/44, Alk Phos / T
   Bili:91/0.3, Amylase / Lipase:/74, Albumin:4.1 g/dL, LDH:195 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
   1) Alcohol Withdrawal
   Plan:
   - Continue on CIWA scale
   - Continue IVFs
   - Social Work
   Disposition: Transfer to Floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: